US09403801B2
3-(5-((5-chloro-2-((3-cyclopropyl-1-methyl-1H-pyrazol-5-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)-3-oxopropanenitrile
To a solution of 5-chloro-N2-(3-cyclopropyl-1-methyl-1H-pyrazol-5-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine (251.7 mg, 0.67 mmol) and 2-cyanoacetic acid (107.2 mg, 1.26 mmol) in a mixture of DCM (20 mL) and DMF (5 mL) were added EDCI (292.5 mg, 1.51 mmol) and HOAT (205.3 mg, 1.51 mmol). After addition, the reaction mixture was stirred at 45° C. for 1 h, then quenched with H2O (30 mL) and extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), and dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/40) to give the title compound as a beige solid (169.4 mg, 57.1%).

reactant | 5-chloro-N2-(3-cyclopropyl-1-methyl-1H-pyrazol-5-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 0.67 mmol, 251.7 mg | ClC=1C(=NC(=NC1)NC1=CC(=NN1C)C1CC1)NC1CC2C(CNC2)C1 | C18H24ClN7
reactant | 2-cyanoacetic acid | 1.26 mmol, 107.2 mg | C(#N)CC(=O)O | C3H3NO2
reactant | EDCI | 1.51 mmol, 292.5 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 1.51 mmol, 205.3 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(5-((5-chloro-2-((3-cyclopropyl-1-methyl-1H-pyrazol-5-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)-3-oxopropanenitrile | 169.4 mg, 57.1% | ClC=1C(=NC(=NC1)NC1=CC(=NN1C)C1CC1)NC1CC2C(CN(C2)C(CC#N)=O)C1 | C21H25ClN8O
